US05026715
A. 2-Methyl-1-phenylsulfonyl-3-propionylpyrrole
To a slurry of 90.4 g (0.68 mole) anhydrous aluminum chloride in 300 ml 1,2-dichloroethane under nitrogen was added dropwise at room temperature 44.0 ml (0.34 mole) propionic anhydride and the resulting clear amber solution was stirred for 15 minutes after the addition was completed. A solution of 25 g (0.11 mole) 2-methyl-1-phenylsulfonylpyrrole in 100 ml 1,2-dichloroethane was added dropwise and stirring at room temperature continued for 3.5 hours. The reaction was quenched by pouring it into ice. After filtering, the aqueous mixture was extracted with methylene chloride and combined organic layers dried (Na2SO4) and solvent evaporated in vacuo. The residual oil was triturated with toluene and filtered to afford 14.46 g beige solid; m.p. 105°-110° C. which was used in the next step.

reactant | aluminum chloride | 0.68 mole, 90.4 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | propionic anhydride | 0.34 mole, 44.0 ml | C(CC)(=O)OC(CC)=O | C6H10O3
reactant | 2-methyl-1-phenylsulfonylpyrrole | 0.11 mole, 25 g | CC=1N(C=CC1)S(=O)(=O)C1=CC=CC=C1 | C11H11NO2S
solvent | 1,2-dichloroethane | 300 ml | ClCCCl | C2H4Cl2
solvent | 1,2-dichloroethane | 100 ml | ClCCCl | C2H4Cl2
product | 2-Methyl-1-phenylsulfonyl-3-propionylpyrrole | 14.46 g | CC=1N(C=CC1C(CC)=O)S(=O)(=O)C1=CC=CC=C1 | C14H15NO3S
